US06809108B1
Synthesis of N-{(1S)-2-(3-{((3R)-1-cyclohexylmethyl-3-piperidyl)methyl}amino-3-oxopropyl)amino-1-(2-carbamoylethyl)-2-oxoethyl}-3,3,3-triphenylpropanamide
To a solution of 84 mg of (2S)-2-amino-N5-triphenylmethyl-N1-(3-{((3R)-1-cyclohexylmethyl-3-piperidyl)methyl}amino-3-oxopropyl)pentanediamide monohydrochloride in 1.5 ml of chloroform, 0.052 ml of N,N-diisopropylethylamine was added at room temperature, followed by an hour's stirring at the same temperature. Then 39 mg of 3,3,3-triphenylpropionic acid, 24 mg of 1-hydroxybenzotriazole monohydrate and 31 mg of 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide monohydrochloride were added at room temperature by the order stated, followed by 17 hours' stirring at the same temperature. The reaction liquid was rendered weakly basic with saturated aqueous sodium bicarbonate solution, extracted with chloroform and dried over anhydrous sodium sulfate. Distilling the solvent off under reduced pressure, the resultant residue was dissolved in 1 ml of chloroform, and to the solution 1 ml of trifluoroacetic acid was added at room temperature, followed by 20 minutes' stirring at the same temperature. The reaction liquid was rendered weakly basic with saturated aqueous sodium bicarbonate solution, extracted with chloroform and dried over anhydrous sodium sulfate. The solvent was distilled off under reduced pressure, and the resultant residue was purified with preparative thin layer chromatography (Kieselgel™ 60F254, Art 5744 (Merck), chloroform/methanol/28% aqueous ammonia=90/1011) to provide 43 mg of the title compound as a white solid.

reactant | (2S)-2-amino-N5-triphenylmethyl-N1-(3-{((3R)-1-cyclohexylmethyl-3-piperidyl)methyl}amino-3-oxopropyl)pentanediamide monohydrochloride | 84 mg | Cl.N[C@H](C(=O)NCCC(=O)NC[C@@H]1CN(CCC1)CC1CCCCC1)CCC(=O)NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | 3,3,3-triphenylpropionic acid | 39 mg | C1(=CC=CC=C1)C(CC(=O)O)(C1=CC=CC=C1)C1=CC=CC=C1 | C21H18O2
reactant | 1-hydroxybenzotriazole monohydrate | 24 mg | O.ON1N=NC2=C1C=CC=C2
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide monohydrochloride | 31 mg | Cl.C(C)N=C=NCCCN(C)C
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | chloroform | 1.5 ml | C(Cl)(Cl)Cl | CHCl3
solvent | N,N-diisopropylethylamine | 0.052 ml | C(C)(C)N(C(C)C)CC | C8H19N
product | N-{(1S)-2-(3-{((3R)-1-cyclohexylmethyl-3-piperidyl)methyl}amino-3-oxopropyl)amino-1-(2-carbamoylethyl)-2-oxoethyl}-3,3,3-triphenylpropanamide | 43 mg | C1(CCCCC1)CN1C[C@H](CCC1)CNC(CCNC([C@H](CCC(N)=O)NC(CC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O)=O)=O | C42H55N5O4
